US06562814B2
A mixture of 4-tert-butylphenyl-isothiocyanate (10.8 g), N-methyl aminooxy acetic acid hydrochloride (8.0 g), triethylamine (14 g) and chloroform (300 mL) was heated at reflux for three hours, then evaporated to dryness. The residue was treated with 2N HCl (300 mL) and the mixture was stirred for fifteen minutes. The solid was collected by filtration, washed with water and dried to give (16.8 g) of [[[[(4-tert-butylphenyl)amino]thioxomethyl]methylamino]oxy]acetic acid. 1H-NMR (DMSO-d6; 300 Mhz) δ13.5 (br s, 1H), 10.48 (s, 1H), 7.48-7.32 (m, 4H), 4.62 (s, 2H), 3.52 (s, 3H), and 1.28 ppm (s, 9H). The acid (14.8 g) was dissolved in benzene (200 mL). Phosphorus pentachloride (10.4 g) was added in portions. The mixture was heated at reflux for one half hour then evaporated to dryness. The residue was dissolved in ethyl acetate (600 mL) and washed with sodium bicarbonate saturated solution (2×400 mL) then with water (400 mL). The organic phase was dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel (40% methylene chloride in hexane). The title compound (9.1 g) was obtained as a solid, m.p. 168-170° C. Mass spectrum (El, M.+) m/z 276. 1H-NMR (DMSO-d6; 400 MHz) δ7.45 (d, 2H), 7.09 (d, 2H), 5.06 (s, 2H), 3.68 (s, 3H), and 1.30 ppm (s, 9H).

reactant | 4-tert-butylphenyl-isothiocyanate | 10.8 g | C(C)(C)(C)C1=CC=C(C=C1)N=C=S | C11H13NS
reactant | N-methyl aminooxy acetic acid hydrochloride | 8.0 g | Cl.CNOCC(=O)O
reactant | triethylamine | 14 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | [[[[(4-tert-butylphenyl)amino]thioxomethyl]methylamino]oxy]acetic acid | 16.8 g | C(C)(C)(C)C1=CC=C(C=C1)NC(=S)N(OCC(=O)O)C | C14H20N2O3S
